US08877782B2
6-[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 84f, 6-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (108 mg, 0.3 mmol) was converted, instead of [64342-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, to the title compound (61 mg, 47%) which was obtained as a white solid. MS: m/e=429.5 [M+H]+.

reactant | 6-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mmol, 108 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=C(C=C1)Cl)=O | C17H14ClN3O4
reactant | nicotinic acid methyl ester | COC(C1=CN=CC=C1)=O | C7H7NO2
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-(tetrahydro-pyran-4-yl)-nicotinamide | 61 mg, 47% | ClC=1C=CC(=NC1)C1=NOC(=C1COC1=NC(=C(C(=O)N)C=C1)C1CCOCC1)C | C21H21ClN4O4
